US04975431
6,7,8,9-Tetrahydro-3-methyl-2-(1-methyloxy-4-methylbenzyl)-5H-cyclohepta[b]pyridine
1-(6,7,8,9-Tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(4-methylphenyl)methanol (2.0 g 0.007 m) was added to sodium hydride (0.35 g, 50% dispersion in oil, 0.007M, washed with 40-60 petrol) suspended in dimethylformamide (20 ml). After evolution of hydrogen had ceased, methyl iodide (0.5 ml) was added and the mixture stirred at room temperature for 0.5 hours. Water was added and the mixture extracted with diethyl ether. The combined ether extracts were treated with 2N hydrochloric acid. The aqueous acid solution was separated, basified with solid sodium carbonate and extracted with chloroform. The combined chloroform extracts were washed with water, dried (MgSO4) and evaporated. The residue was purified by chromatography on silica and eluted with chloroform to give the title compound as a gum. This was dissolved in diethyl ether and treated with ethereal HCl to give the crystalline hydrochloride salt, 1.4 g m.p. 144°-6° C.

reactant | 1-(6,7,8,9-Tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)-1-(4-methylphenyl)methanol | 2.0 g | CC=1C=C2C(=NC1C(O)C1=CC=C(C=C1)C)CCCCC2 | C19H23NO
reactant | sodium hydride | 0.007M, 0.35 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.5 ml | CI | CH3I
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 6,7,8,9-Tetrahydro-3-methyl-2-(1-methyloxy-4-methylbenzyl)-5H-cyclohepta[b]pyridine | CC=1C=C2C(=NC1CC1(CC=C(C=C1)C)OC)CCCCC2 | C20H27NO
